US08470871B2
900 mg (1.74 mmol; 1 eq.) of ethyl 4′-(3-acetoxypropoxy)-3″-tert-butyl-4″-ethylamino-[1,1′;3′,1″]terphenyl-4-benzoate are dissolved in 10 ml of absolute ethanol. 312 mg (7.8 mmol; 4.5 eq.) of sodium hydroxide and 4 ml of H2O are added at room temperature and the mixture is then heated to reflux. These conditions are maintained for about 1 hour 30 minutes. The reaction medium is concentrated to a small volume; H2O is added to the precipitate formed, and the mixture is then acidified with acetic acid to pH ˜4-5. This suspension is fluidized by adding H2O and stirred at room temperature for 1 hour. The resulting mixture is filtered through a sinter funnel, rinsed with H2O until the filtrate is neutral, and oven-dried. 694 mg of 3″-tert-butyl-4″-ethylamino-4′-(3-hydroxypropoxy)-[1,1′;3′,1″]terphenyl-4-carboxylic acid are thus obtained in the form of a white powder (yield=89%).

reactant | ethyl 4′-(3-acetoxypropoxy)-3″-tert-butyl-4″-ethylamino-[1,1′;3′,1″]terphenyl-4-benzoate | 1.74 mmol, 900 mg, 1 eq. | C(C)(=O)OCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C1=CC=CC=C1C(=O)OCC)C1=CC(=C(C=C1)NCC)C(C)(C)C | C38H43NO5
reactant | sodium hydroxide | 7.8 mmol, 312 mg, 4.5 eq. | [OH-].[Na+]
reactant | H2O | 4 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3″-tert-butyl-4″-ethylamino-4′-(3-hydroxypropoxy)-[1,1′;3′,1″]terphenyl-4-carboxylic acid | 694 mg | C(C)(C)(C)C=1C=C(C=CC1NCC)C=1C=C(C=CC1OCCCO)C1=CC=C(C=C1)C(=O)O | C28H33NO4
